US05846982
6-trifluoromethyl-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 1.00 gm (5.4 mMol) 6-trifluoromethyl-1H-indole and 1.33 mL (11.0 mMol) 1-methyl-4-piperidone, 1.34 gm (89%) of the title compound were recovered as colorless crystals.

reactant | 6-trifluoromethyl-1H-indole | 5.4 mMol, 1.00 gm | FC(C1=CC=C2C=CNC2=C1)(F)F | C9H6F3N
reactant | 1-methyl-4-piperidone | 11.0 mMol, 1.33 mL | CN1CCC(CC1)=O | C6H11NO
product | 6-trifluoromethyl-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.34 gm, 89% | FC(C1=CC=C2C(=CNC2=C1)C=1CCN(CC1)C)(F)F | C15H15F3N2
